US06900216B2
A mixture of 1-(benzo[b]thiophen-4-yl)-2-chloroethan-1-one (1.15 g), 2-imidazolidinethione (0.57 g), ethanol (10 ml) and acetic acid (6 ml) was heated under reflux for 18 hours then cooled to ambient temperature. The solvents were removed in vacuo and the residue was triturated with ether (30 ml). The resulting solid was collected by filtration, washed with ether (30 ml) and dried in vacuo at 40° C. to give 3-(benzo[b]thiophen-4-yl)-5,6-dihydroimidazo[2,1-b]thiazole hydrochloride (1.73 g) as a cream solid, m.p. 246-249° C.

reactant | 1-(benzo[b]thiophen-4-yl)-2-chloroethan-1-one | 1.15 g | S1C2=C(C=C1)C(=CC=C2)C(CCl)=O | C10H7ClOS
reactant | 2-imidazolidinethione | 0.57 g | N1C(NCC1)=S | C3H6N2S
reactant | ethanol | 10 ml | C(C)O | C2H6O
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | 3-(benzo[b]thiophen-4-yl)-5,6-dihydroimidazo[2,1-b]thiazole hydrochloride | 1.73 g | Cl.S1C2=C(C=C1)C(=CC=C2)C=2N1C(SC2)=NCC1 | InChI=1S/C13H10N2S2.ClH/c1-2-9(10-4-7-16-12(10)3-1)11-8-17-13-14-5-6-15(11)13;/h1-4,7-8H,5-6H2;1H
